US08431735B2
Manufacturing Process of Melphalan 2 HCl
Place 100˜500 g of Melphalan HCl (IM1036) into a flask. Add 4N HCl until most of the solids are dissolved while stirring. Stir the mixture for more than 10 mins. Filter the mixture with a Millipor® all-glass 47 mm microfiltration assembly with nylon membrane. Rinse the solid with 4N HCl; combine the filtrate and wash to give a clear pale-yellow solution. Transfer the solution into several vacuum flasks. Swirl the vacuum flasks gently in a dry-ice/acetone bath. The cooling process will take more than 30 min. until the liquid is completely frozen. Mount the flasks to a lyophilizer with the pressure preset at 225 mmHg and temperature at <−40° C. The freeze-drying process continues for more than 48 hours until the water content meets the specification requirement. Release the vacuum and weigh the product. The product is packed in the polypropylene bags inside a sealed aluminum pouch and stored at 2˜8° C. in a refrigerator, to protect from light and moisture. The yield is 90˜95% of theoretical yield.

reactant | Melphalan HCl | 100˜500 g | C1=CC(=CC=C1C[C@@H](C(=O)O)N)N(CCCl)CCCl.Cl
reactant | HCl | 4N | Cl | ClH
reactant | polypropylene | C(C(C)[*:2])[*:1]
reactant | aluminum | [Al] | Al
solvent | water | O | H2O
product | Melphalan | yield is 90˜95% | C1=CC(=CC=C1C[C@@H](C(=O)O)N)N(CCCl)CCCl | C13H18Cl2N2O2
